US07662830B2
1. 6-{4-[6-(4-Fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridine-2-carboxylic acid methyl ester
To a cold solution (0° C.) of 6-hydroxy-5-methyl-pyridine-2-carboxylic acid methyl ester (Adamczyk et. al. (2002) Tetrahedron 58:6951-6963) (167 mg, 1.0 mmol) in CHCl3 (15 mL), add trifluoroacetic anhydride (423 mg, 1.5 mmol) dropwise followed by TEA (202 mg, 2.0 mmol). Stir the mixture for 1 h. Dilute with CHCl3, wash with sat. NaHCO3, dry the organic layer (Na2SO4) and concentrate under reduced pressure. Mix the residue with 4-(4-fluoro-phenyl)-6-(2-(R)-methyl-piperazin-1-yl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine (426 mg, 1.2 mmol) and DIEA (129 mg, 1.0 mmol) in DMA. Heat the mixture at 100° C. for 16 h. Dilute with water, extract with EtOAc, and wash with brine. Dry the organic layer (Na2SO4) and concentrate under reduced pressure. Purify the residue by flash column eluting with EtOAc-Hexanes (1:5) to afford the title compound.

reactant | 6-hydroxy-5-methyl-pyridine-2-carboxylic acid methyl ester | 1.0 mmol, 167 mg | COC(=O)C1=NC(=C(C=C1)C)O | C8H9NO3
reactant | trifluoroacetic anhydride | 1.5 mmol, 423 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-(4-fluoro-phenyl)-6-(2-(R)-methyl-piperazin-1-yl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine | 1.2 mmol, 426 mg | FC1=CC=C(C=C1)C1=NC(=NC(=C1)N1[C@@H](CNCC1)C)N1[C@@H](CCC1)C | C20H26FN5
reactant | DIEA | 1.0 mmol, 129 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMA | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 6-{4-[6-(4-Fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C=C1)C)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](CCC1)C)C | C28H33FN6O2
